.SUBCKT memristor plus minus PARAMS:
+ Ron=100 Roff=16K Rinit=11K D=10N uv=10F p=1.0
Gx 0 x value={I(Emem)*uv*Ron/D**2*f(V(x),p)}
Cx x 0 1 IC={(Roff-Rinit)/(Roff-Ron)}
Raux x 0 1000000
Emem plus aux value={-I(Emem)*V(x)*(Roff-Ron)}
Roff aux minus {Roff}
Eflux flux 0 value={SDT(V(plus,minus))}
Echarge chagrge 0 value={SDT(I(Emem))}
.func f(x,p)={1-(2*x-1)**(2*p)}
.END memristor